US07919506B2
Preparation 39: (2-(1-methoxycyclohexyl)-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane
To a solution of 1-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)cyclohexanol (108 mg; 0.278 mmol) in tetrahydrofuran (2 mL) at 0° C. was added sodium hydride (22 mg; 0.55 mmol). The reaction was stirred at 0° C. for 30 minutes. Then iodomethane (50 uL; 0.80 mmol) was added. The reaction was stirred at 0° C. for 30 minutes and then at room temperature for 16 hours. More iodomethane (20 uL; 0.32 mmol) was added and stirred for 4 hours. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The crude was purified over a 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-15% ethyl acetate in heptane) to give 63 mg (55%) the title compound as a colorless oil. MS-GC (El): Calc: 402.5, Found: 383 (M−F). 1H NMR (400 MHz, CDCl3) δ ppm 7.51 (d, J=7.88 Hz, 1H), 7.46 (d, J=7.47 Hz, 1H), 7.35 (d, J=8.30 Hz, 1H), 5.05 (s, 2H), 2.94 (s, 3H), 2.16 (d, J=12.45 Hz, 2H), 1.8-1.56 (m, 8H), 0.98 (s, 9H), 0.13 (s, 6H).

reactant | 1-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)cyclohexanol | 0.278 mmol, 108 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)C(F)(F)F)C1(CCCCC1)O | C20H31F3O2Si
reactant | sodium hydride | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | iodomethane | 0.80 mmol, 50 uL | IC | CH3I
reactant | iodomethane | 0.32 mmol, 20 uL | IC | CH3I
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2-(1-methoxycyclohexyl)-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane | 63 mg, 55% | COC1(CCCCC1)C1=C(CO[Si](C)(C)C(C)(C)C)C=C(C=C1)C(F)(F)F | C21H33F3O2Si
